US07863291B2
To 2,4-difluorobenzonitrile (1.21 g, 8.70 mmol) was added hydrazine monohydrate (8.46 mL, 174 mmol). The mixture was heated to reflux for 5 hours and then poured onto ice. The solution was extracted with ethyl acetate, dried with magnesium sulfate, filtered and concentrated. The residue was purified by column chromatography (25-100% ethyl acetate/hexane) to afford 6-fluoro-1H-indazol-3-amine (0.5 g, 3.3 mmol, 38% yield) as light yellow powder. 1H NMR (500 MHz, DMSO-D6) δ ppm 11.42 (s, 1 H), 7.70 (dd, J=8.55, 5.49 Hz, 1 H), 6.97 (dd, J=10.07, 1.83 Hz, 1 H), 6.72-6.79 (m, 1 H), 5.40 (s, 2 H). MS (LC/MS) R.T.=0.61; [M+H]+=152.11.

reactant | 2,4-difluorobenzonitrile | 8.70 mmol, 1.21 g | FC1=C(C#N)C=CC(=C1)F | C7H3F2N
reactant | hydrazine monohydrate | 174 mmol, 8.46 mL | O.NN
product | 6-fluoro-1H-indazol-3-amine | 3.3 mmol, 0.5 g, 38% yield | FC1=CC=C2C(=NNC2=C1)N | C7H6FN3
